US07378417B2
3-Amino-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide
A mixture of 3-nitro-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide (3.12 g, 11 mmol), sodium dithionite (8.09 g, 40 mmol), water (21.5 ml) and 2 methoxyethanol (21.5 ml) was stirred at 100° C. for 2 h, additional water (18.5 ml) was added at 70° C. and subsequently HCl (37%, 18.5 ml) was added over a period of 10 min (SO2 evolution). The reaction mixture was stirred at 70° C. for 20 min, poured into ice/water (50 ml) and sodium carbonate was added until the solution proofed to be basic. The solution was extracted with ethyl acetate (3×75 ml), the combined organic layers washed with brine (80 ml), dried (MgSO4) and evaporated. The crude product was further purified by column chromatography on silica gel (heptane/ethyl acetate 1:1) to yield the title compound (2.05 g, 73%) as a white solid. MS (ISP) 252.9 [(M−H)−]; m.p. 131° C.

reactant | 3-nitro-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide | 11 mmol, 3.12 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCC(F)(F)F | C8H7F3N2O4S
reactant | sodium dithionite | 40 mmol, 8.09 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | methoxyethanol | 21.5 ml | COC(C)O | C3H8O2
reactant | HCl | 18.5 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 18.5 ml | O | H2O
solvent | water | 21.5 ml | O | H2O
product | 3-Amino-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide | 2.05 g, 73% | NC=1C=C(C=CC1)S(=O)(=O)NCC(F)(F)F | C8H9F3N2O2S
